US07294636B2
Preparation of 1-piperidin-4-yl-1H-benzimidazole-5-carbonitrile
tert-Butyl-4-(5-cyano-1H-benzimidazol-1-yl)piperidin-1-carboxylate (326 mg) was dissolved in DCM (10 ml) and silica gel (10 g) was added and the mixture evaporated to dryness. Toluene (100 ml) was added and the mixture refluxed for 15 hours. The mixture was evaporated to dryness and the silica was then washed with dichloromethane. The organics were evaporated to a gum which was purified by chromatography on silica eluting with NH3/MeOH/dichloromethane (2:18:80) to give the title compound as a solid. Yield 77 mg. NMR (d6 DMSO): 2.0 (m, 4H), 2.75 (m, 2H), 3.15 (m, 2H), 4.6 (m, 1H), 7.7 (d, 1H), 7.9 (d, 1H), 8.2 (s, 1H), 8.6 (s, 1H). MS 227 (MH+).

reactant | tert-Butyl-4-(5-cyano-1H-benzimidazol-1-yl)piperidin-1-carboxylate | 326 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC2=C1C=CC(=C2)C#N | C18H22N4O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-piperidin-4-yl-1H-benzimidazole-5-carbonitrile | N1CCC(CC1)N1C=NC2=C1C=CC(=C2)C#N | C13H14N4
